US07951954B2
b) (3′-Formyl-biphenyl-4-yl)-acetic acid methyl ester
3-Formylphenylboronic acid (2.25 g), potassium carbonate (4.15 g) and tetrakis(triphenylphosphine)palladium(0) (0.58 g) was added to a solution of (4-bromophenyl)-acetic acid methyl ester (2.3 g) in a nitrogen degassed mixture of toluene and methanol [9:1] (20 mL) and heated to reflux for 18 hours. On cooling the reaction was filtered through a pad of Celite, the pad was washed with ethyl acetate (2×50 mL) and the combined filtrates were concentrated. Purification on silica, eluting with iso-hexane/ethyl acetate [1:0 to 4:1], afforded the subtitle compound as yellow oil (2.45 g)

reactant | 3-Formylphenylboronic acid | 2.25 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-bromophenyl)-acetic acid methyl ester | 2.3 g | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3′-Formyl-biphenyl-4-yl)-acetic acid methyl ester | 2.45 g | COC(CC1=CC=C(C=C1)C1=CC(=CC=C1)C=O)=O | C16H14O3
